*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:52:09 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFRHQX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFRHQX1 D Q RN SE SI CK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.76582e-16
*|P (D X 0 3.7000 0.8550)
*|I (Mmn11:g Mmn11 g X 0 3.7525 0.4450)
*|I (Mmp11:g Mmp11 g X 0 3.7525 1.2450)
*|S (D:2 3.7525 0.7050)
*|S (D:3 3.6800 0.7050)
*|S (D:5 3.6900 0.7050)
*|S (D:6 3.6900 0.8550)
C1 Mmp11:g VSS 1.08477e-16
C2 Mmn11:g VSS 3.86855e-17
C3 D:5 VSS 3.78147e-17
C4 D:2 VSS 2.57214e-17
C5 D:3 VSS 2.56805e-17
C6 D VSS 4.02028e-17
Rl1 D:2 D:3 48.118305 $W=0.114
Rl2 D:2 Mmn11:g 45.033443 $W=0.039
Rl3 Mmp11:g D:2 127.725754 $W=0.039
Rk4 D:3 D:5 0.002289 $W=0.28
Rk5 D:6 D 0.002403 $W=0.28
Rk6 D:5 D:6 0.093544 $W=0.1
*
*|NET Q 1.64447e-16
*|P (Q X 0 0.1000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.1550 0.4400)
*|I (Mmp55:d Mmp55 d X 0 0.1550 1.2150)
*|S (Q:2 0.1450 0.6650)
C7 Mmp55:d VSS 6.65291e-17
C8 Mmn55:d VSS 3.18057e-17
C9 Q:2 VSS 5.2911e-17
C10 Q VSS 1.32008e-17
Rk7 Q:2 Q 0.007258 $W=0.13
Rk8 Q:2 Mmn55:d 37.682507 $W=0.09
Rk9 Mmp55:d Q:2 21.096949 $W=0.08
*
*|NET RN 5.39881e-16
*|P (RN X 0 1.3000 0.8550)
*|I (Mmn45:g Mmn45 g X 0 1.1425 0.4075)
*|I (Mmn35:g Mmn35 g X 0 2.3825 0.4075)
*|I (Mmp45:g Mmp45 g X 0 1.1425 1.2200)
*|I (Mmp35:g Mmp35 g X 0 2.3525 1.2200)
*|S (RN:4 1.1425 0.8000)
*|S (RN:6 1.2300 0.8000)
*|S (RN:7 1.2300 0.8275)
*|S (RN:8 1.3005 0.8275)
C11 Mmp35:g VSS 1.36669e-16
C12 Mmp45:g VSS 1.0456e-16
C13 Mmn35:g VSS 8.96694e-17
C14 Mmn45:g VSS 5.13262e-17
C15 RN:8 VSS 4.92285e-17
C16 RN:7 VSS 4.94178e-17
C17 RN:4 VSS 3.35345e-17
C18 RN:6 VSS 2.5476e-17
Rl10 RN:4 RN:6 50.013042 $W=0.114
Rl11 RN:4 Mmn45:g 106.571899 $W=0.039
Rl12 Mmp45:g RN:4 96.956520 $W=0.039
Rl13 Mmn35:g Mmp35:g 215.231598 $W=0.039
Rl14 Mmp35:g Mmp45:g 603.411743 $W=0.039
Rk15 RN:6 RN:7 0.008733 $W=0.2
Rk16 RN:8 RN 0.008733 $W=0.2
Rk17 RN:7 RN:8 0.019963 $W=0.225
*
*|NET SE 5.84123e-16
*|P (SE X 0 4.1000 0.6650)
*|I (Mmn14:g Mmn14 g X 0 4.2625 0.4450)
*|I (Mmn10:g Mmn10 g X 0 4.5725 0.4775)
*|I (Mmp12:g Mmp12 g X 0 3.8575 1.2450)
*|I (Mmp10:g Mmp10 g X 0 4.5725 1.1575)
*|S (SE:1 3.9500 0.9400)
*|S (SE:4 4.2250 0.6750)
*|S (SE:6 4.6000 0.7050)
C19 Mmp10:g VSS 4.34616e-17
C20 Mmp12:g VSS 7.2781e-17
C21 Mmn10:g VSS 3.39671e-17
C22 Mmn14:g VSS 5.8593e-17
C23 SE:1 VSS 1.14358e-16
C24 SE:4 VSS 8.80622e-17
C25 SE:6 VSS 9.99274e-17
C26 SE VSS 7.29724e-17
Rl18 Mmn14:g SE:4 69.232826 $W=0.039
Rl19 SE:6 Mmn10:g 46.845619 $W=0.039
Rl20 SE:1 Mmp12:g 81.425339 $W=0.039
Rl21 Mmp10:g SE:6 119.922546 $W=0.039
Rk22 SE SE:4 0.075096 $W=0.1
Rk23 SE:4 SE:6 45.224876 $W=0.1
Rk24 SE:1 SE 0.314919 $W=0.07
*
*|NET SI 3.17363e-16
*|P (SI X 0 4.3000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 4.3675 0.4450)
*|I (Mmp13:g Mmp13 g X 0 4.2625 1.2450)
*|S (SI:2 4.4050 0.8350)
*|S (SI:4 4.4050 0.8350)
C27 Mmp13:g VSS 6.71766e-17
C28 Mmn13:g VSS 8.00797e-17
C29 SI:2 VSS 1.20521e-16
C30 SI VSS 4.95859e-17
Rl25 Mmn13:g SI:2 85.771294 $W=0.039
Rl26 SI:2 Mmp13:g 101.477188 $W=0.039
Rk27 SI SI:4 0.026207 $W=0.255
Rk28 SI:2 SI:4 45.000000 $W=0.255
*
*|NET CK 2.39109e-16
*|P (CK X 0 0.3000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 0.4825 0.4975)
*|I (Mmp20:g Mmp20 g X 0 0.4825 1.3025)
*|S (CK:2 0.4550 0.8900)
*|S (CK:4 0.3005 0.8725)
*|S (CK:5 0.4550 0.8725)
*|S (CK:6 0.4550 0.8900)
C31 Mmp20:g VSS 4.15824e-17
C32 Mmn20:g VSS 4.94278e-17
C33 CK:5 VSS 4.3109e-17
C34 CK:4 VSS 6.00558e-17
C35 CK:2 VSS 4.49341e-17
Rl29 CK:2 Mmn20:g 110.307159 $W=0.039
Rl30 Mmp20:g CK:2 104.537926 $W=0.039
Rk31 CK CK:4 0.004227 $W=0.265
Rk32 CK:4 CK:5 0.070641 $W=0.137
Rk33 CK:2 CK:6 45.000000 $W=0.137
Rk34 CK:5 CK:6 0.004227 $W=0.265
*
*|NET qbint 8.25876e-16
*|I (Mmn55:g Mmn55 g X 0 0.2475 0.4400)
*|I (Mmn46:d Mmn46 d X 0 0.8225 0.4075)
*|I (Mmn50:g Mmn50 g X 0 1.4075 0.4075)
*|I (Mmp55:g Mmp55 g X 0 0.2475 1.2150)
*|I (Mmp46:d Mmp46 d X 0 1.0400 1.2200)
*|I (Mmp50:g Mmp50 g X 0 1.4075 1.2200)
*|S (qbint:1 0.3050 0.6900)
*|S (qbint:2 0.2475 0.6900)
*|S (qbint:6 1.3700 0.6100)
*|S (qbint:8 1.0400 0.8100)
*|S (qbint:10 0.7900 0.3650)
C36 Mmp50:g VSS 6.9645e-17
C37 Mmp46:d VSS 5.5771e-17
C38 Mmp55:g VSS 5.82094e-17
C39 Mmn50:g VSS 5.63853e-17
C40 Mmn46:d VSS 1.45784e-16
C41 Mmn55:g VSS 3.4448e-17
C42 qbint:8 VSS 1.04086e-16
C43 qbint:2 VSS 2.41861e-17
C44 qbint:1 VSS 1.44118e-16
C45 qbint:6 VSS 1.33243e-16
Rl35 qbint:1 qbint:2 46.233437 $W=0.114
Rl36 qbint:2 Mmn55:g 41.187286 $W=0.039
Rl37 qbint:6 Mmn50:g 24.232828 $W=0.039
Rl38 qbint:2 Mmp55:g 121.956520 $W=0.039
Rl39 Mmp50:g qbint:6 160.771286 $W=0.039
Rk40 qbint:6 qbint:8 45.379883 $W=0.08
Rk41 qbint:10 qbint:1 0.645695 $W=0.06
Rk42 qbint:8 qbint:10 0.541463 $W=0.07
Rk43 Mmn46:d qbint:10 75.000000 $W=0.07
Rk44 qbint:8 Mmp46:d 62.237411 $W=0.09
*
*|NET CKb 1.37577e-15
*|I (Mmn20:d Mmn20 d X 0 0.5775 0.4975)
*|I (Mmn51:g Mmn51 g X 0 1.5125 0.4075)
*|I (Mmn25:g Mmn25 g X 0 2.9375 0.4075)
*|I (Mmn21:g Mmn21 g X 0 3.5475 0.5025)
*|I (Mmp20:d Mmp20 d X 0 0.5775 1.3025)
*|I (Mmp40:g Mmp40 g X 0 1.8125 1.2200)
*|I (Mmp37:g Mmp37 g X 0 2.9375 1.0550)
*|I (Mmp21:g Mmp21 g X 0 3.5475 1.1575)
*|S (CKb:2 1.5500 0.7300)
*|S (CKb:4 1.8500 0.9350)
*|S (CKb:6 2.9100 1.4100)
*|S (CKb:9 3.4600 1.4100)
*|S (CKb:11 1.8500 1.3000)
*|S (CKb:12 1.5500 1.1250)
*|S (CKb:14 0.5900 1.2550)
C46 Mmp21:g VSS 5.09535e-17
C47 Mmp37:g VSS 5.37722e-17
C48 Mmp40:g VSS 4.47561e-17
C49 Mmp20:d VSS 1.39632e-16
C50 Mmn21:g VSS 6.32977e-17
C51 Mmn25:g VSS 4.90387e-17
C52 Mmn51:g VSS 5.79439e-17
C53 Mmn20:d VSS 1.12488e-16
C54 CKb:12 VSS 1.65185e-16
C55 CKb:11 VSS 1.35272e-16
C56 CKb:2 VSS 1.09642e-16
C57 CKb:4 VSS 1.15067e-16
C58 CKb:6 VSS 1.70161e-16
C59 CKb:9 VSS 1.08562e-16
Rl45 Mmn51:g CKb:2 115.386673 $W=0.039
Rl46 Mmp40:g CKb:4 80.771286 $W=0.039
Rl47 Mmp37:g CKb:6 109.153313 $W=0.039
Rl48 Mmp37:g Mmn25:g 150.000000 $W=0.039
Rl49 Mmp21:g CKb:9 97.186195 $W=0.039
Rl50 Mmp21:g Mmn21:g 182.692307 $W=0.039
Rk51 CKb:9 CKb:6 0.392433 $W=0.09
Rk52 CKb:6 CKb:11 0.842876 $W=0.0825
Rk53 CKb:11 CKb:4 0.294855 $W=0.0725
Rk54 CKb:12 CKb:2 0.326003 $W=0.08
Rk55 CKb:11 CKb:12 0.348770 $W=0.09
Rk56 CKb:12 CKb:14 0.780995 $W=0.08
Rk57 CKb:14 Mmn20:d 75.532631 $W=0.09
Rk58 Mmp20:d CKb:14 62.000000 $W=0.08
*
*|NET net337 4.46366e-18
*|I (Mmn46:s Mmn46 s X 0 1.0400 0.4075)
*|I (Mmn45:d Mmn45 d X 0 1.0400 0.4075)
C60 Mmn46:s VSS 4.46366e-18
Rmw59 Mmn45:d Mmn46:s 0.001000 $W=1
*
*|NET n30 5.20856e-16
*|I (Mmn46:g Mmn46 g X 0 0.9375 0.4075)
*|I (Mmn51:d Mmn51 d X 0 1.6625 0.4075)
*|I (Mmp46:g Mmp46 g X 0 0.9375 1.2200)
*|I (Mmp51:d Mmp51 d X 0 1.7100 1.2200)
*|S (n30:2 0.9100 0.6200)
*|S (n30:6 1.7100 0.3900)
C61 Mmp51:d VSS 1.20578e-16
C62 Mmp46:g VSS 5.62737e-17
C63 Mmn51:d VSS 1.55238e-16
C64 Mmn46:g VSS 2.92754e-17
C65 n30:2 VSS 1.59492e-16
Rl60 n30:2 Mmn46:g 29.537926 $W=0.039
Rl61 Mmp46:g n30:2 158.384079 $W=0.039
Rk62 n30:6 n30:2 45.739788 $W=0.065
Rk63 Mmn51:d n30:6 75.000000 $W=0.065
Rk64 Mmp51:d n30:6 62.588001 $W=0.08
*
*|NET net405 2.68183e-18
*|I (Mmn50:d Mmn50 d X 0 1.4600 0.4075)
*|I (Mmn51:s Mmn51 s X 0 1.4600 0.4075)
C66 Mmn50:d VSS 2.68183e-18
Rmw65 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 5.30561e-16
*|I (Mmn40:s Mmn40 s X 0 1.9800 0.4075)
*|I (Mmn36:g Mmn36 g X 0 2.5575 0.4075)
*|I (Mmp40:s Mmp40 s X 0 1.9500 1.2200)
*|I (Mmp36:g Mmp36 g X 0 2.5575 1.2200)
*|S (mout:2 2.5250 0.7400)
*|S (mout:4 1.9750 0.6750)
C67 Mmp36:g VSS 5.89201e-17
C68 Mmp40:s VSS 8.76327e-17
C69 Mmn36:g VSS 6.53148e-17
C70 Mmn40:s VSS 6.53465e-17
C71 mout:4 VSS 1.06078e-16
C72 mout:2 VSS 1.47268e-16
Rl66 mout:2 Mmn36:g 72.251862 $W=0.039
Rl67 Mmp36:g mout:2 108.790321 $W=0.039
Rk68 mout:2 mout:4 45.472988 $W=0.07
Rk69 mout:4 Mmn40:s 75.205940 $W=0.0725
Rk70 mout:4 Mmp40:s 62.324409 $W=0.09
*
*|NET CKbb 1.02125e-15
*|I (Mmn40:g Mmn40 g X 0 1.8125 0.4075)
*|I (Mmn37:g Mmn37 g X 0 2.6675 0.4075)
*|I (Mmn21:d Mmn21 d X 0 3.4550 0.5025)
*|I (Mmp51:g Mmp51 g X 0 1.6075 1.2200)
*|I (Mmp25:g Mmp25 g X 0 3.1425 1.0550)
*|I (Mmp21:d Mmp21 d X 0 3.4550 1.1575)
*|S (CKbb:2 1.8500 0.6100)
*|S (CKbb:5 2.7050 0.6550)
*|S (CKbb:6 3.2150 0.6200)
*|S (CKbb:9 3.4450 0.6200)
*|S (CKbb:10 2.6850 0.5550)
C73 Mmp21:d VSS 6.70995e-17
C74 Mmp25:g VSS 5.28889e-17
C75 Mmp51:g VSS 8.9782e-17
C76 Mmn21:d VSS 1.91864e-17
C77 Mmn37:g VSS 4.60595e-17
C78 Mmn40:g VSS 2.15125e-17
C79 CKbb:10 VSS 2.23007e-16
C80 CKbb:9 VSS 3.8112e-17
C81 CKbb:2 VSS 2.48063e-16
C82 CKbb:5 VSS 7.87306e-17
C83 CKbb:6 VSS 1.36812e-16
Rl71 Mmn40:g CKbb:2 24.232828 $W=0.039
Rl72 Mmn37:g CKbb:5 86.540520 $W=0.039
Rl73 CKbb:2 Mmp51:g 214.504395 $W=0.039
Rl74 CKbb:6 Mmp25:g 144.257324 $W=0.039
Rk75 CKbb:9 CKbb:6 0.157082 $W=0.1
Rk76 CKbb:6 CKbb:10 0.839321 $W=0.08
Rk77 CKbb:10 CKbb:5 0.078878 $W=0.09
Rk78 CKbb:10 CKbb:2 46.092129 $W=0.07
Rk79 CKbb:9 Mmn21:d 75.092102 $W=0.08
Rk80 Mmp21:d CKbb:9 62.379932 $W=0.085
*
*|NET n20 4.88926e-16
*|I (Mmn30:g Mmn30 g X 0 2.1475 0.4075)
*|I (Mmn37:d Mmn37 d X 0 2.8025 0.4075)
*|I (Mmp30:g Mmp30 g X 0 2.0875 1.2200)
*|I (Mmp37:d Mmp37 d X 0 3.0400 1.0550)
*|S (n20:2 2.1200 0.9000)
*|S (n20:5 2.8650 0.9400)
C84 Mmp37:d VSS 5.7e-17
C85 Mmp30:g VSS 5.76825e-17
C86 Mmn37:d VSS 9.32742e-17
C87 Mmn30:g VSS 5.1002e-17
C88 n20:5 VSS 9.96866e-17
C89 n20:2 VSS 1.3028e-16
Rl81 Mmn30:g n20:2 138.461533 $W=0.039
Rl82 n20:2 Mmp30:g 51.098900 $W=0.039
Rk83 n20:5 n20:2 45.546673 $W=0.08
Rk84 n20:5 Mmn37:d 75.357124 $W=0.08
Rk85 Mmp37:d n20:5 31.217121 $W=0.08
*
*|NET net426 0
*|I (Mmn35:d Mmn35 d X 0 2.4700 0.4075)
*|I (Mmn36:s Mmn36 s X 0 2.4700 0.4075)
Rmw86 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET net422 0
*|I (Mmn36:d Mmn36 d X 0 2.6125 0.4075)
*|I (Mmn37:s Mmn37 s X 0 2.6125 0.4075)
Rmw87 Mmn37:s Mmn36:d 0.001000 $W=1
*
*|NET Db 5.97225e-16
*|I (Mmn25:s Mmn25 s X 0 3.0375 0.4075)
*|I (Mmn12:d Mmn12 d X 0 4.1600 0.4450)
*|I (Mmp25:s Mmp25 s X 0 3.2350 1.0550)
*|I (Mmp12:d Mmp12 d X 0 3.9700 1.2450)
*|S (Db:3 3.9600 1.1600)
*|S (Db:4 3.8950 1.2700)
*|S (Db:6 3.2450 1.0550)
C90 Mmp12:d VSS 1.44401e-16
C91 Mmp25:s VSS 1.70823e-16
C92 Mmn12:d VSS 1.25246e-16
C93 Mmn25:s VSS 1.05964e-16
C94 Db:4 VSS 5.07905e-17
Rk88 Db:3 Db:4 0.039105 $W=0.19
Rk89 Db:4 Db:6 0.583046 $W=0.07
Rk90 Db:6 Mmn25:s 75.610596 $W=0.08
Rk91 Mmn12:d Db:3 75.734810 $W=0.08
Rk92 Mmp25:s Db:6 31.000000 $W=0.07
Rk93 Mmp12:d Db:3 62.000000 $W=0.08
Rk94 Db:4 Mmp12:d 62.098701 $W=0.1
*
*|NET net450 6.64026e-18
*|I (Mmn11:d Mmn11 d X 0 3.9050 0.4450)
*|I (Mmn12:s Mmn12 s X 0 3.9050 0.4450)
C95 Mmn11:d VSS 6.64026e-18
Rmw95 Mmn12:s Mmn11:d 0.001000 $W=1
*
*|NET SEb 4.20307e-16
*|I (Mmn12:g Mmn12 g X 0 4.0575 0.4450)
*|I (Mmn10:d Mmn10 d X 0 4.6650 0.4775)
*|I (Mmp14:g Mmp14 g X 0 4.0825 1.2450)
*|I (Mmp10:d Mmp10 d X 0 4.6650 1.1575)
*|S (SEb:2 4.1200 0.9500)
*|S (SEb:5 4.6750 1.2050)
C96 Mmp10:d VSS 9.49591e-17
C97 Mmp14:g VSS 4.56599e-17
C98 Mmn10:d VSS 7.51405e-17
C99 Mmn12:g VSS 6.55342e-17
C100 SEb:2 VSS 1.39013e-16
Rl96 SEb:2 Mmn12:g 135.404373 $W=0.039
Rl97 Mmp14:g SEb:2 24.232828 $W=0.039
Rk98 SEb:2 SEb:5 45.553139 $W=0.08
Rk99 SEb:5 Mmn10:d 75.539139 $W=0.06
Rk100 Mmp10:d SEb:5 62.000000 $W=0.08
*
*|NET net442 0
*|I (Mmn14:s Mmn14 s X 0 4.3150 0.4450)
*|I (Mmn13:d Mmn13 d X 0 4.3150 0.4450)
Rmw101 Mmn13:d Mmn14:s 0.001000 $W=1
*
*|NET net326 3.58673e-18
*|I (Mmp50:d Mmp50 d X 0 1.5075 1.2200)
*|I (Mmp51:s Mmp51 s X 0 1.5075 1.2200)
C101 Mmp50:d VSS 3.58673e-18
Rmw102 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net349 1.24603e-16
*|I (Mmp35:d Mmp35 d X 0 2.4550 1.2200)
*|I (Mmp37:s Mmp37 s X 0 2.8450 1.0550)
C102 Mmp37:s VSS 5.66685e-17
C103 Mmp35:d VSS 6.79348e-17
Rk103 Mmp37:s Mmp35:d 124.307495 $W=0.08
*
*|NET net381 1.5388e-18
*|I (Mmp11:d Mmp11 d X 0 3.8050 1.2450)
*|I (Mmp12:s Mmp12 s X 0 3.8050 1.2450)
C104 Mmp11:d VSS 1.5388e-18
Rmw104 Mmp12:s Mmp11:d 0.001000 $W=1
*
*|NET net373 3.89779e-18
*|I (Mmp14:s Mmp14 s X 0 4.1725 1.2450)
*|I (Mmp13:d Mmp13 d X 0 4.1725 1.2450)
C105 Mmp14:s VSS 3.89779e-18
Rmw105 Mmp13:d Mmp14:s 0.001000 $W=1
*
*Instance Section
*
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.04365P	PD=0.8U	PS=0.9U
+ fw=2.6e-07 sa=1.4e-07 sb=2.73846e-07 sca=10.5507 scb=0.0097116 scc=0.000384728
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02103P	AS=0.04365P	PD=0.58U	PS=0.9U
+ fw=1.45e-07 sa=3.75e-07 sb=1.45e-07 sca=12.9138 scb=0.0133404 scc=0.000640143
Mmn46	Mmn46:d	Mmn46:g	Mmn46:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03793P	AS=0.0328P	PD=0.78U	PS=0.73U
+ fw=2.05e-07 sa=1.85e-07 sb=2e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0577P	PD=0.73U	PS=1.06U
+ fw=2.05e-07 sa=3.9e-07 sb=1.95e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.0577P	PD=0.53U	PS=1.06U
+ fw=2.05e-07 sa=6.55e-07 sb=1.685e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05228P	AS=0.0123P	PD=0.92U	PS=0.53U
+ fw=2.05e-07 sa=7.6e-07 sb=1.58e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn40	Mmn51:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05228P	AS=0.05945P	PD=0.92U	PS=0.99U
+ fw=2.05e-07 sa=1.06e-06 sb=1.28e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn30	Mmn40:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05945P	AS=0.05245P	PD=0.99U	PS=1.24U
+ fw=2.05e-07 sa=1.395e-06 sb=9.45e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02665P	AS=0.05245P	PD=0.67U	PS=1.24U
+ fw=2.05e-07 sa=1.63e-06 sb=7.1e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.01333P	AS=0.02665P	PD=0.54U	PS=0.67U
+ fw=2.05e-07 sa=1.805e-06 sb=5.35e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn37	Mmn37:d	Mmn37:g	Mmn37:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04613P	AS=0.01333P	PD=0.86U	PS=0.54U
+ fw=2.05e-07 sa=1.915e-06 sb=4.25e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn25	Mmn37:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04613P	AS=0.03178P	PD=0.86U	PS=0.72U
+ fw=2.05e-07 sa=2e-06 sb=1.55e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0347P	PD=0.57U	PS=0.84U
+ fw=1.45e-07 sa=1.4e-07 sb=1.12276e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0676P	AS=0.0347P	PD=1.04U	PS=0.84U
+ fw=2.6e-07 sa=2.36635e-07 sb=8.51635e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn12	Mmn12:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0676P	PD=0.84U	PS=1.04U
+ fw=2.6e-07 sa=5.41635e-07 sb=5.46635e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn14	Mmn12:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=7.46635e-07 sb=3.41635e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0347P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=8.51635e-07 sb=2.36635e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0347P	PD=0.57U	PS=0.84U
+ fw=1.45e-07 sa=1.12276e-06 sb=1.4e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.06535P	PD=1.06U	PS=1.16U
+ fw=3.9e-07 sa=1.4e-07 sb=2.72308e-07 sca=23.0036 scb=0.0261368 scc=0.00127103
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03118P	AS=0.06535P	PD=0.72U	PS=1.16U
+ fw=2.15e-07 sa=3.75e-07 sb=1.45e-07 sca=12.6299 scb=0.00978612 scc=8.84613e-05
Mmp46	Mmp46:d	Mmp46:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0683P	PD=0.94U	PS=1.22U
+ fw=3.1e-07 sa=1.7e-07 sb=1.735e-06 sca=12.1897 scb=0.0106254 scc=0.000361908
Mmp45	VDD	Mmp45:g	Mmp46:d	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.0496P	PD=1.06U	PS=0.94U
+ fw=3.1e-07 sa=3.75e-07 sb=1.53e-06 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.04805P	AS=0.0682P	PD=0.93U	PS=1.06U
+ fw=3.1e-07 sa=6.4e-07 sb=1.265e-06 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.04805P	PD=0.94U	PS=0.93U
+ fw=3.1e-07 sa=8.4e-07 sb=1.065e-06 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0713P	PD=0.94U	PS=1.08U
+ fw=3.1e-07 sa=1.045e-06 sb=8.6e-07 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0713P	AS=0.0838P	PD=1.08U	PS=1.32U
+ fw=3.1e-07 sa=1.32e-06 sb=5.85e-07 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0838P	PD=0.94U	PS=1.32U
+ fw=3.1e-07 sa=1.585e-06 sb=3.2e-07 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp36	Mmp35:d	Mmp36:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.05883P	PD=0.94U	PS=1.47U
+ fw=3.1e-07 sa=1.79e-06 sb=1.15e-07 sca=12.1411 scb=0.0106159 scc=0.000361907
Mmp37	Mmp37:d	Mmp37:g	Mmp37:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0434P	PD=0.94U	PS=0.9U
+ fw=3.1e-07 sa=1.4e-07 sb=3.45e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp25	Mmp37:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0434P	PD=0.94U	PS=0.9U
+ fw=3.1e-07 sa=3.45e-07 sb=1.4e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0698P	PD=0.71U	PS=1.62U
+ fw=2.15e-07 sa=1.4e-07 sb=1.165e-06 sca=13.9534 scb=0.0134231 scc=0.000640578
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0698P	PD=0.9U	PS=1.62U
+ fw=3.9e-07 sa=2.35064e-07 sb=8.20897e-07 sca=12.2138 scb=0.0106342 scc=0.00038358
Mmp12	Mmp12:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.0234P	PD=1.14U	PS=0.9U
+ fw=3.9e-07 sa=3.40064e-07 sb=7.15897e-07 sca=12.2524 scb=0.0106415 scc=0.00038358
Mmp14	Mmp12:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.05265P	PD=1.14U	PS=1.05U
+ fw=3.9e-07 sa=5.65064e-07 sb=4.90897e-07 sca=12.9125 scb=0.0109255 scc=0.000383719
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.05265P	AS=0.08147P	PD=1.05U	PS=1.31U
+ fw=3.9e-07 sa=7.45064e-07 sb=3.10897e-07 sca=14.0619 scb=0.0121239 scc=0.000387547
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.08147P	PD=0.71U	PS=1.31U
+ fw=2.15e-07 sa=1.165e-06 sb=1.4e-07 sca=25.1693 scb=0.0296469 scc=0.00157586
.ENDS
.END
